### PR TITLE
[Merged by Bors] - feat(Probability): version of `infinitePi_pi` for countable sets

### PR DESCRIPTION
**Pull request by DavidLedvinka**
---

- [x] depends on: #32276

### CODE REVIEW

File: Mathlib/Data/Set/Lattice.lean [hunk 1]
```diff
@@ -1143,8 +1143,13 @@ theorem biUnion_univ_pi {ι : α → Type*} (s : (a : α) → Set (ι a)) (t : (
...
   simp [Classical.skolem, forall_and]
 
-end Pi
+theorem pi_iUnion_eq_iInter_pi {α' : Type*} (s : α' → Set α) (t : (a : α) → Set (π a)) :
+    (⋃ i, s i).pi t = ⋂ i, (s i).pi t := by
+  ext f
+  simp
+  grind
 
+end Pi
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Lattice.lean:1152]:
```suggestion
end Pi

```

File: Mathlib/Probability/ProductMeasure.lean [hunk 2]
```diff
@@ -410,13 +409,55 @@ lemma infinitePi_pi {s : Finset ι} {t : (i : ι) → Set (X i)}
...
+    (infinitePi μ).map I.restrict = infinitePi fun i : I ↦ μ i := by
+  apply eq_infinitePi
+  intro s t ht
+  classical
+  rw [map_apply (by fun_prop), restrict_preimage', infinitePi_pi _ (by measurability)]
+  · simp
+  · exact MeasurableSet.pi s.countable_toSet (by measurability)
+
+open Classical in
+lemma infinitePi_pi' {s : Set ι} (hs : Countable s) {t : (i : ι) → Set (X i)}
```
Comment (YaelDillies) [inline Mathlib/Probability/ProductMeasure.lean]:
```suggestion
lemma infinitePi_pi_of_countable {s : Set ι} (hs : Countable s) {t : (i : ι) → Set (X i)}
```
maybe?

File: Mathlib/Probability/ProductMeasure.lean [hunk 3]
```diff
@@ -410,13 +409,55 @@ lemma infinitePi_pi {s : Finset ι} {t : (i : ι) → Set (X i)}
...
+theorem infinitePi_map_restrict' {I : Set ι} :
+    (infinitePi μ).map I.restrict = infinitePi fun i : I ↦ μ i := by
+  apply eq_infinitePi
+  intro s t ht
+  classical
+  rw [map_apply (by fun_prop), restrict_preimage', infinitePi_pi _ (by measurability)]
+  · simp
+  · exact MeasurableSet.pi s.countable_toSet (by measurability)
+
+open Classical in
```
Comment (YaelDillies) [inline Mathlib/Probability/ProductMeasure.lean]: Why do you need this?

File: Mathlib/Probability/ProductMeasure.lean [hunk 4]
```diff
@@ -410,13 +409,55 @@ lemma infinitePi_pi {s : Finset ι} {t : (i : ι) → Set (X i)}
...
     infinitePi μ {f} = ∏ i, μ i {f i} := by
   simpa [Set.univ_pi_singleton] using
     infinitePi_pi μ (s := .univ) (t := fun i ↦ {f i}) fun _ _ ↦ .singleton _
 
+@[simp]
+lemma infinitePi_singleton' [hι : Countable ι] [∀ i, MeasurableSingletonClass (X i)]
+    (f : ∀ i, X i) : infinitePi μ {f} = ∏' i, μ i {f i} := by
+  rw [← Set.univ_pi_singleton, infinitePi_pi', tprod_univ (f := fun i ↦ μ i {f i})]
+  · simp [Set.countable_univ_iff, hι]
+  · measurability
```
Comment (YaelDillies) [inline Mathlib/Probability/ProductMeasure.lean]: Can you prove the fintype version in terms of the countable one? Also, could you improve the naming scheme?

**Review by YaelDillies — COMMENTED** [review]
Can you merge master?

File: Mathlib/Probability/ProductMeasure.lean (hunk 4 above)
Comment (DavidLedvinka) [reply Mathlib/Probability/ProductMeasure.lean]: Side note, should `tprod_fintype` be a simp lemma?

File: Mathlib/Probability/ProductMeasure.lean (hunk 3 above)
Comment (DavidLedvinka) [reply Mathlib/Probability/ProductMeasure.lean]: I need it for a few decidability instances. I must admit I don't really know the difference between all the "classical" solutions. Is it better to put it in the proof like I did now?

File: Mathlib/Probability/ProductMeasure.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Probability/ProductMeasure.lean]: I think so, yes

Comment (YaelDillies) [reply Mathlib/Probability/ProductMeasure.lean]: I think so, yes

File: Mathlib/Probability/ProductMeasure.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Probability/ProductMeasure.lean]: Yes, definitely! Otherwise you might be poisoning the *statement* of your lemma with undergeneral decidability assumptions

File: Mathlib/Probability/ProductMeasure.lean (hunk 4 above)
Comment (DavidLedvinka) [reply Mathlib/Probability/ProductMeasure.lean]: Should I make the change in this PR or do that separately?

Comment (YaelDillies) [reply Mathlib/Probability/ProductMeasure.lean]: Try here, but if you start having to fix more than a few proofs then it should be separate

Comment (DavidLedvinka) [reply Mathlib/Probability/ProductMeasure.lean]: I guess it conflicts with `Finset.tprod_subtype` which is already a simp lemma. There is perhaps an argument between which of `tprod_fintype`, `Finset.tprod_subtype` and `Finset.tprod_subtype'` should be a simp lemma. I made the change to make `tprod_fintype` the simp lemma and nothing (outside of the proof of `Finset.tprod_subtype`) breaks and it removes a simp lemma from another simp proof, so perhaps thats an argument for it.

Comment (DavidLedvinka) [reply Mathlib/Probability/ProductMeasure.lean]: Another conflicting lemma `tprod_singleton` caught by the linter.

File: Mathlib/Probability/ProductMeasure.lean [hunk 5]
```diff
@@ -410,12 +409,51 @@ lemma infinitePi_pi {s : Finset ι} {t : (i : ι) → Set (X i)}
...
 
--- TODO: add a version for infinite `ι`. See TODO on `infinitePi_pi`.
+theorem infinitePi_map_restrict' {I : Set ι} :
+    (infinitePi μ).map I.restrict = infinitePi fun i : I ↦ μ i := by
+  apply eq_infinitePi
+  intro s t ht
+  classical
+  rw [map_apply (by fun_prop), restrict_preimage', infinitePi_pi _ (by measurability)]
+  · simp
+  · exact MeasurableSet.pi s.countable_toSet (by measurability)
```
Comment (YaelDillies) [inline Mathlib/Probability/ProductMeasure.lean]: nit:
```suggestion
  · exact .pi s.countable_toSet (by measurability)
```

File: Mathlib/Probability/ProductMeasure.lean [hunk 6]
```diff
@@ -398,7 +398,6 @@ theorem eq_infinitePi {ν : Measure (Π i, X i)}
     · exact .univ
   · exact .univ_pi ht
 
--- TODO: add a version for an infinite product
 lemma infinitePi_pi {s : Finset ι} {t : (i : ι) → Set (X i)}
```
Comment (YaelDillies) [inline Mathlib/Probability/ProductMeasure.lean:401]: Could this become
```suggestion
lemma infinitePi_pi_finset {s : Finset ι} {t : (i : ι) → Set (X i)}
```

File: Mathlib/Probability/ProductMeasure.lean [hunk 7]
```diff
@@ -410,12 +409,51 @@ lemma infinitePi_pi {s : Finset ι} {t : (i : ι) → Set (X i)}
...
+theorem infinitePi_map_restrict' {I : Set ι} :
+    (infinitePi μ).map I.restrict = infinitePi fun i : I ↦ μ i := by
+  apply eq_infinitePi
+  intro s t ht
+  classical
+  rw [map_apply (by fun_prop), restrict_preimage', infinitePi_pi _ (by measurability)]
+  · simp
+  · exact MeasurableSet.pi s.countable_toSet (by measurability)
+
+lemma infinitePi_pi_of_countable {s : Set ι} (hs : Countable s) {t : (i : ι) → Set (X i)}
```
Comment (YaelDillies) [inline Mathlib/Probability/ProductMeasure.lean:421]: and this
```suggestion
lemma infinitePi_pi {s : Set ι} (hs : Countable s) {t : (i : ι) → Set (X i)}
```
?

File: Mathlib/Probability/ProductMeasure.lean [hunk 8]
```diff
@@ -410,12 +409,51 @@ lemma infinitePi_pi {s : Finset ι} {t : (i : ι) → Set (X i)}
...
+    (mt : ∀ i ∈ s, MeasurableSet (t i)) :
+    infinitePi μ (Set.pi s t) = ∏' i : s, (μ i) (t i) := by
```
Comment (YaelDillies) [inline Mathlib/Probability/ProductMeasure.lean]: nit:
```suggestion
    infinitePi μ (Set.pi s t) = ∏' i : s, μ i (t i) := by
```

Comment (YaelDillies) [inline Mathlib/Probability/ProductMeasure.lean]: Could we also have
```
lemma infinitePi_pi_univ [Countable ι] {t : (i : ι) → Set (X i)} (mt : ∀ i ∈ s, MeasurableSet (t i)) :
    infinitePi μ (Set.pi .univ t) = ∏' i, μ i (t i) := by
```

**Review by YaelDillies — COMMENTED** [review]
The simp changes look innocuous enough

File: Mathlib/Probability/ProductMeasure.lean (hunk 6 above)
Comment (DavidLedvinka) [reply Mathlib/Probability/ProductMeasure.lean:401]: I am a bit conflicted on this one because I think `infinitePi_pi_finset` could end up being the more used one. For example a common proof idea will be to use `eq_infinitePi`, and in this case (and others) the Finset version is more convenient. This is the opposite for the singleton lemmas since the countable version does immediately reduce with simp to the Fintype version, and if you are doing something that only applies at the level of generality of `[Fintype ι]` there is a decent chance you could just be using Measure.pi.

Comment (YaelDillies) [reply Mathlib/Probability/ProductMeasure.lean:401]: Let's keep it like that for now

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Data/Finset/Pi.lean [hunk 9]
```diff
@@ -194,6 +194,12 @@ lemma restrict_preimage [DecidablePred (· ∈ s)] (t : (i : s) → Set (π i))
   ext
   simp_all
 
+lemma restrict_preimage' [DecidableEq ι] {I : Set ι}
+    [DecidablePred (· ∈ I)] (s : Finset I) (u : (i : I) → Set (π i)) :
+    I.restrict ⁻¹' Set.pi s u =
+      Set.pi (s.image Subtype.val) (fun i ↦ if h : i ∈ I then u ⟨i, h⟩ else .univ) := by
+  grind
```
Comment (j-loreaux) [inline Mathlib/Data/Finset/Pi.lean]: I think I would rename the first of these two `restrict_preimage_univ` and let the latter take its name.

**Review by j-loreaux — COMMENTED** [review]
bors d+
